US04092311
Methyl 3-[6-(p-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate
A mixture of 18.0 g. of 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine, 13.3 g. of methyl carbazate and 200 ml. of n-butanol is refluxed for 3 hours. The solvent is removed to give an oil which crystallizes on addition of water to give 11.9 g. of product. Recrystallization from methanol-ether gives white crystals, m.p. 191°-192° C.

reactant | 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)Cl)C | C12H8ClN3
reactant | methyl carbazate | C(NN)(=O)OC | C2H6N2O2
solvent | n-butanol | C(CCC)O | C4H10O
product | Methyl 3-[6-(p-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)NNC(=O)OC)C | C14H13N5O2
